US04948916
13.7 Grams (0.1 mole) of benzhydroxamic acid and 8.8 g (0.1 mole) of chloroacetic acid were dissolved in 60 ml of methyl alcohol. To the resulting solution, 20 g (0.2 moles) of 40% aqueous solution of sodium hydroxide was slowly added dropwise. After completion of the addition, the reaction solution was heated under reflux for 8 hours and subsequently cooled. After distilling of methyl alcohol under vacuum, concentrated hydrochloric acid was added to the remaining aqueous solution so as to adjust pH to 1. Ethyl acetate (50 ml) was added to the solution. The separated organic layer was washed twice with 50 ml of a saturated sodium chloride solution. By distilling off ethyl acetate, benzamidooxyacetic acid (m.p. 144°145° C.) was obtained in an amount of 18.2 g (yield, 93 mol %).

reactant | benzhydroxamic acid | 0.1 mole | C(C1=CC=CC=C1)(=O)NO | C7H7NO2
reactant | chloroacetic acid | 0.1 mole, 8.8 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl alcohol | 60 ml | CO | CH4O
product | benzamidooxyacetic acid | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
